US06582351B1
A mixture of 3-cyclohexene-1-carboxylic acid (1.8 g), triethylamine (2.2 mL) and diphenylphosphoryl azide (3.93 g) in benzene (40 mL) was refluxed for 2 hours. After adding benzyl alcohol (1.54 g), the mixture was refluxed for 10 hours. The mixture was evaporated in vacuo and the obtained residue was diluted with ethyl acetate. The organic layer was washed successively with 1N hydrochloric acid, an aqueous saturated sodium hydrogen carbonate solution and brine. The obtained organic layer was dried over sodium sulfate and evaporated in vacuo. The residues was recrystallized from hexane-diethyl ether to give benzyl N-(3-cyclohexene-1-yl)carbamate (1.72 g) as a solid.

reactant | 3-cyclohexene-1-carboxylic acid | 1.8 g | C1(CC=CCC1)C(=O)O | C7H10O2
reactant | triethylamine | 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 3.93 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 1.54 g | C(C1=CC=CC=C1)O | C7H8O
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
product | benzyl N-(3-cyclohexene-1-yl)carbamate | 1.72 g | C1(CC=CCC1)NC(OCC1=CC=CC=C1)=O | C14H17NO2
